US08334301B2
tert-butyl methyl({5-[methyl(phenyl)amino]-1-phenyl-1H-pyrazol-3-yl}methyl)carbamate
To a suspension of sodium hydride (16 mg) in tetrahydrofuran (2 mL) and N,N-dimethylformamide (0.5 mL) was added tert-butyl methyl{[1-phenyl-5-(phenylamino)-1H-pyrazol-3-yl]methyl}carbamate (100 mg). After stirring at room temperature for 30 min, iodomethane (75 mg) was added, and the mixture was further stirred for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=9:1→4:1) to give the title compound as a pale-brown oil (yield 67 mg, yield 65%).

reactant | sodium hydride | 16 mg | [H-].[Na+]
reactant | tert-butyl methyl{[1-phenyl-5-(phenylamino)-1H-pyrazol-3-yl]methyl}carbamate | 100 mg | CN(C(OC(C)(C)C)=O)CC1=NN(C(=C1)NC1=CC=CC=C1)C1=CC=CC=C1 | C22H26N4O2
reactant | iodomethane | 75 mg | IC | CH3I
reactant | Water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | tert-butyl methyl({5-[methyl(phenyl)amino]-1-phenyl-1H-pyrazol-3-yl}methyl)carbamate | yield 67 mg, yield 65% | CN(C(OC(C)(C)C)=O)CC1=NN(C(=C1)N(C1=CC=CC=C1)C)C1=CC=CC=C1 | C23H28N4O2
